Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___
 
Chief Complaint:
R temporal/parietal IPH with SDH and ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old female with HTN, HLD,
hypothyroidism, arrhythmia NOS on no anticoagulation but on ASA
81mg, anxiety and history of atraumatic SAH in ___ likely
secondary to amyloid presenting with acute onset headache, 
nausea
and left side paralysis.

Ms. ___ reports that she woke up this morning on ___ at
7:00am in her usual state of health, but while taking a shower
and brushing her teeth at around 7:10am, she noted that she had
sudden onset headache, nausea and her left arm felt heavy.  She
denies falling.  She denies any recent trauma.  She was last 
seen
well by her family at 12:00pm on ___.  She called her
Lifeline and was taken to ___ for futher 
evaluation.

At ___, she had a head CT showing a acute large 
right
parietal and frontal hemorrhagic stroke with shift and a
subarachnoid and subdural component. Patient was given Ativan 
and
Zofran and transferred for further management. Patient's 
systolic
blood pressures were below 120s at ___. 
 
In the ___ ED, she has a CTA showing no evidence of occlusion,
aneurysm, dissection or AV malformation.  It also redemonstrated
the large right parietal and frontal intraparechymal hemorrhage
with shift and a subarachnoid and subdural component.  Systolic
blood pressures in the ED have been more elevated in the 150s. 
She continues to have nausea and headache.      

REVIEW OF SYSTEMS:
On neurologic review of systems, the patient denies
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies bowel or bladder incontinence or retention. 

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits. 

Denies dysuria or hematuria. Denies myalgias, arthralgias, or
rash.

 
Past Medical History:
- HTN
- HLD
- hypothyroidism
- anxiety
- arrhythmia NOS
- previous "TIA"
  - ___ ago, p/w chest pain -> diagnosed with ?TIA
- L knee OA

 
Social History:
___
Family History:
Brother had testicular cancer diagnosed at ___ and had a MI at 
___.  Sister has breast cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals:  T:97.8   HR:80   BP:118/71   RR:18   SaO2:95% on RA
General:  Laying in bed, able to answer questions
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: Warm and well perfused
Pulmonary: Breathing comfortably on room air
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm and well perfused, no edema
Skin: No rashes or lesions, no signs of trauma

Neurologic Examination:
- Mental Status - Awake, alert. Able to state name, age and
month.  Stated that she was in ___ in ___
when asked where she was.  Attention to examiner easily
maintained, however, eyes closed.  Recalls a coherent history.
Speech is fluent with full sentences, intact repetition, and
intact verbal comprehension.  Normal prosody. No dysarthria. No
apraxia. Left side neglect.  

- Cranial Nerves - PERRL 2->1 brisk. Left sided field cut. EOMI,
with right gaze preference, but able to cross midline, no
nystagmus. V1-V3 without deficits to light touch on the right,
but decreased sensation on the left. Left face UMN palsy. 
Hearing
intact to finger rub bilaterally. SCM/Trapezius strength ___ on
the right and ___ on the left. Tongue deviates to the right.  

- Motor - Normal bulk. Increased tone on the left upper and 
lower
extremity.  Left hand is balled up.  No drift on the right but
unable to lift left arm or leg. No tremor.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  0    0   0   0   0  0  0  0   0    0   0    0     0
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No sensation to light touch on the left.  Intact
sensation to light touch on the right.    

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing on the
right. 

- Gait - Deferred

DISCHARGE PHYSICAL EXAMINATION: (limited as patient CMO)
On exam: 100.6 Tmax. BP 107-142mmHg. Exam very similar to 
yesterday. Less alert.
Eyes are open. Moves the right side spontaneously. Dense left 
neglect.
Left arm no response noxious stimuli. Triple flexion on the left 
leg.

 
Pertinent Results:
___ 09:00AM BLOOD WBC-10.0# RBC-3.44* Hgb-11.6 Hct-34.8 
MCV-101* MCH-33.7* MCHC-33.3 RDW-12.0 RDWSD-43.7 Plt ___
___ 09:00AM BLOOD Neuts-85.8* Lymphs-6.7* Monos-6.2 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-8.56*# AbsLymp-0.67* 
AbsMono-0.62 AbsEos-0.04 AbsBaso-0.02
___ 09:00AM BLOOD Glucose-143* UreaN-16 Creat-0.8 Na-143 
K-3.9 Cl-108 HCO3-23 AnGap-16
___ 03:05AM BLOOD Albumin-3.9 Phos-2.8 Mg-1.8 Cholest-150
___ 03:05AM BLOOD Vit___-___
___ 03:05AM BLOOD Triglyc-52 HDL-84 CHOL/HD-1.8 LDLcalc-56

MRI ___: 
1. Right frontoparietal intraparenchymal hemorrhage with 
intraventricular 
extension.  The exact etiology is this hemorrhage is uncertain.  
Evaluation for underlying enhancement is limited given the 
intrinsic T1 hyperintensity and an underlying mass is not 
completely excluded.  Please note however that a prior head MRI 
from ___ did not reveal an underlying lesion.  The 
possible etiology could be amyloidosis though no other micro 
hemorrhages are seen.  Short interval follow-up to resolution is 
recommended. 
2. Slight interval decrease in the right cerebral convexity 
subdural hematoma. 
3. Subarachnoid hemorrhage in right frontal, parietal, temporal 
and left 
occipital lobes and left cerebellar hemisphere.  Associated 
enhancement on 
postcontrast images is likely reactive in etiology. 
4. Mass effect secondary to the intraparenchymal hemorrhage with 
midline shift towards the left by approximately 7 mm. 

NCHCT ___: 
1. No significant interval change to the large right 
frontoparietal 
intraparenchymal hemorrhage with 8 mm leftward shift of midline 
structures. 
2. No acute territorial infarct visualized on noncontrast head 
CT.

 
Brief Hospital Course:
Mrs. ___ is a ___ yo female admitted on ___ 
after acute onset headache, nausea, and L sided weakness.  She 
was seen at an OSH and noted to have a R frontoparietal 
intraparenchymal hemorrhage, who was transferred to ___ for 
further care.  

Initial CTA Head at ___ demonstrated unchanged right posterior 
frontal intraparenchymal hemorrhage with overlying subarachnoid 
hemorrhage and subdural hematoma causing vasogenic edema and 
mass effect with mild right-to-left midline shift.  Findings are 
relatively unchanged. Concern for amyloid angiopathy as the 
source of the hemorrhage. Neurosurgery was consulted and did not 
recommend surgical intervention.  

Initally patient's exam was notable for L sided hemiplegia, loss 
of sensation on L, L facial droop, mild anisicoria and right 
sided gaze preference.  Mental status was initially intact but 
pt became more somnolent after admission.  Repeat scan 8 hours 
later demonstrated enlarging right frontoparietal parenchymal 
hematoma.  Similarly sized right cerebral subdural hematoma, 
with tiny subarachnoid and intraventricular components.  Mild 
progression in leftward subfalcine herniation.  She was started 
on hyperosmolar IV therapy for cerebral edema (Mannitol followed 
by hypertonic saline).

MRI the following day showed right frontoparietal 
intraparenchymal hemorrhage with intraventricular extension. 
Slight interval decrease in the right cerebral convexity 
subdural hematoma.  Subarachnoid hemorrhage in right frontal, 
parietal, temporal and left occipital lobes and left cerebellar 
hemisphere.  Mass effect secondary to the intraparenchymal 
hemorrhage with midline shift 
towards the left by approximately 7 mm. 

Over the subsequent 3 days of her hospitalization she 
demonstrated a decreased level of alertness along with previous 
findings of L sided hemiplegia.  Patient grew S. Aureus in her 
urine and was started on Vancomycin due to concerns that this 
may be contributing to woresend mental status, however, there 
was no notable improvement.  

On ___ unanimous decision to change the patient's 
status to CMO was made by patient's family due to severe injury 
with high likelihood of substantial degree of disability.  Plan 
was made to transfer patient to hospice the following day. 

 
Medications on Admission:
- Atenolol 50 mg PO daily
- Levothyroxine 100mcg PO daily
- Lorazepam 0.5mg PO TID
- Losartan 50mg PO daily
- Pravastatin 20mg qpm
- Verapamil 120 mg daily
- Claritin 10mg daily
- Aspirin 81mg daily
 
Discharge Medications:
1. Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL ___ 
mg PO Q2H:PRN pain or SOB 
RX *morphine 20 mg/5 mL ___ mg by mouth Q2H Disp #*60 
Milliliter Refills:*1

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Right frontoparietal intraparenchymal hemorrhage
Subdural hematoma
Subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with bleeding in your brain.  This 
was discussed with your family and the decision was made to 
transition to comfort directed care and hospice. 

Neurology ___ TEAM
 
Followup Instructions:
___